US07816391B2
tert-butyl 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylate (Intermediate#36) was dissolved in DCM (10 mL). TFA (2 mL) was added and the mixture was stirred at ambient temperature for 5 h. Volatiles were then evaporated under reduced pressure and the residue dried under vacuum to afford 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid as a light brown oil. (440 mg, 98%)

reactant | tert-butyl 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylate | COC(=O)CC1=CC=C(C=C1)N1N=CC(=C1SCCC)C(=O)OC(C)(C)C | C20H26N2O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid | COC(=O)CC1=CC=C(C=C1)N1N=CC(=C1SCCC)C(=O)O | C16H18N2O4S
